US07897624B2
Step e: 5-Amino-4-(2-fluoro-4-iodophenylamino)-1-methylpyridin-2(1H)-one
A mixture of 4-(2-fluoro-4-iodophenylamino)-1-methyl-5-nitropyridin-2(1H)-one (960 mg, 2.47 mmol), NH4Cl (540 mg, 10.1 mmol) and Fe (453 mg, 8.1 mmol) in 70 mL of aqueous EtOH (70% by volume was heated to 90° C. for 2 hours. After cooled to room temperature, the solution was passed through a layer of celite, and the filtrate was concentrated under the reduced pressure to give the title compound as a tan-color solid which was used for the next reaction without further purification. (732 mg, 83% yield)

reactant | 4-(2-fluoro-4-iodophenylamino)-1-methyl-5-nitropyridin-2(1H)-one | 2.47 mmol, 960 mg | FC1=C(C=CC(=C1)I)NC1=CC(N(C=C1[N+](=O)[O-])C)=O | C12H9FIN3O3
reactant | NH4Cl | 10.1 mmol, 540 mg | [NH4+].[Cl-]
solvent | EtOH | 70 mL | CCO | C2H6O
catalyst | Fe | 8.1 mmol, 453 mg | [Fe] | Fe
product | 5-Amino-4-(2-fluoro-4-iodophenylamino)-1-methylpyridin-2(1H)-one | 83% yield | NC=1C(=CC(N(C1)C)=O)NC1=C(C=C(C=C1)I)F | C12H11FIN3O
